US06482951B2
A mixture of (S)-(+)-α-aminocyclohexanepropionic acid hydrate (5.00 g; 29.2 mmol) and phthalic dicarboxaldehyde (4.21 g; 31.3 mmol) in acetonitrile (120 mL) was refluxed for 20 h under nitrogen. The mixture was allowed to cool to room temperature and further cooled to 0° C. The solid was filtered off and washed once with cold acetonitrile (50 mL) to give 6.54 g (78%) of (S)-3-Cyclohexyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid as a white solid: EI-HRMS m/e calcd for C17H21NO3 (M+) 287.1521, found 287.1521.

reactant | (S)-(+)-α-aminocyclohexanepropionic acid hydrate | 29.2 mmol, 5.00 g | O.N[C@H](C(=O)O)CC1CCCCC1
reactant | acetonitrile | 120 mL | C(C)#N | C2H3N
product | (S)-3-Cyclohexyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid | 6.54 g, 78% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C2=CC=CC=C2C1)=O | C17H21NO3
